US08557872B2
Step 3: Synthesis of 2-butoxy-N-methoxy-N-methyl-4-trifluoromethyl-benzamide
2-Butoxy-4-trifluoromethyl-benzoic acid (687 mg) was reacted with N,O-dimethylhydroxy amine (331 mg), NMM (0.65 ml) and DMTMM (911 mg) as described above to yield the title compound (825 mg) after column chromatography (Hex/EtOAc=7.5/1).

reactant | 2-Butoxy-4-trifluoromethyl-benzoic acid | 687 mg | C(CCC)OC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C12H13F3O3
reactant | N,O-dimethylhydroxy amine | 331 mg | CNOC | C2H7NO
reactant | NMM | 0.65 ml | CN1CCOCC1 | C5H11NO
reactant | DMTMM | 911 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-butoxy-N-methoxy-N-methyl-4-trifluoromethyl-benzamide | 825 mg | C(CCC)OC1=C(C(=O)N(C)OC)C=CC(=C1)C(F)(F)F | C14H18F3NO3
